US07435823B2
Step (a) Preparation of 4-chloro-6,7-dihydroxyquinoline
In a tube with a stirring bar was introduced 4-chloro-6,7-dimethoxyquinoline (1.5 g, 6.71 mmol) and 15 g of pyridinium hydrochloride. The tube was sealed and the mixture stirred at 200° C. for 1 h. The reaction was cooled to RT and a saturated solution of NaHCO3 was added followed by EtOAc. The EtOAc layer was washed with a saturated solution of NaHCO3, and the aqueous solution was back extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum. The crude mixture was used in the next step.

reactant | 4-chloro-6,7-dimethoxyquinoline | 6.71 mmol, 1.5 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | pyridinium hydrochloride | 15 g | Cl.[NH+]1=CC=CC=C1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-6,7-dihydroxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)O)O | C9H6ClNO2
